data/oMe_Silver.jsonl
{"reaction_id": "NR-135_1-C1CCCCC1_2-c1ccccc1_3-CC_4-CC(C)C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(C1CCCCC1)(c1ccccc1)=C(CC)C(=O)(CC(C)C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(C1CCCCC1)(c1ccccc1)=C(CC)C(O)(CC(C)C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C1CCCCC1)(c1ccccc1)=C(CC)C(=[O+][Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(c1ccccc1)=C(CC)C(O[Ce-](Cl)(Cl)Cl)(CC(C)C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(c1ccccc1)=C(CC)C(O)(CC(C)C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
{"reaction_id": "NR-034_1-c1ccccc1_2-C1CC1_3-C(=O)OC_4-c1ccc(F)cc1","name": "Burgess Dehydration","level": "easy","reactants_smiles": ["C(c1ccccc1)(C1CC1)(O)C(C(=O)OC)(c1ccc(F)cc1)","COC(=O)[N-]S(=O)(=O)[N+](CC)(CC)CC"],"products_smiles": ["C(c1ccccc1)(C1CC1)=C(C(=O)OC)(c1ccc(F)cc1)"],"conditions": "Burgess Reagent (the second reactant)","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)[OH+](C(c1ccccc1)(C1CC1)C(C(=O)OC)(c1ccc(F)cc1))","rationale": "The electrophilic sulfur in the Burgess reagent is activated by electron-withdrawing sulfonyl and carbamate groups, allowing nucleophilic attack by the alcohol oxygen to form a sulfamate ester intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[N-]S(=O)(=O)OC(c1ccccc1)(C1CC1)C(C(=O)OC)(c1ccc(F)cc1)","rationale": "Proton transfer from the oxonium intermediate to the carbamate nitrogen neutralizes charge, stabilizing the intermediate and preparing the oxygen for elimination."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C1CC1)=C(C(=O)OC)(c1ccc(F)cc1)","rationale": "The sulfamate group is an excellent leaving group due to resonance stabilization and electron-withdrawing substituents, enabling β-elimination to form the alkene under mild conditions."}],"description": "The Burgess reagent, a mild dehydrating agent, reacts with the alcohol to form a sulfamate ester intermediate. Under the reaction conditions, intramolecular elimination occurs, driven by the good leaving group ability of the sulfamate, yielding the alkene product under mild, non-acidic conditions."}
